US07544703B2
2-(2-Hydroxyacetylaminopyridin-4-ylmethylthio)-N-(4-trifluoromethoxyphenyl)pyridine-3-carboxamide (Compound No. 12-1)
2-(2-Acetoxyacetylaminopyridin-4-ylmethylthio)-N-(4-trifluoromethoxyphenyl)pyridine-3-carboxamide (Compound No. 10-2, 25 mg, 0.048 mmol) was dissolved in the mixture of methanol (2.0 mL) and tetrahydrofuran (1.0 mL), and 4 N aqueous sodium hydroxide solution (60 μL) was added thereto under ice-cooling. The mixture was stirred for 15 minutes at room temperature and diluted with ethyl acetate (30 mL), and then the whole was washed with saturated aqueous sodium hydrogen carbonate solution (30 mL) and brine (30 mL). The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give 23 mg of the target compound quantitatively as a pale yellow solid.

reactant | 2-(2-Acetoxyacetylaminopyridin-4-ylmethylthio)-N-(4-trifluoromethoxyphenyl)pyridine-3-carboxamide | 0.048 mmol, 25 mg | C(C)(=O)OCC(=O)NC(SC1=NC=CC=C1C(=O)NC1=CC=C(C=C1)OC(F)(F)F)C1=CC=NC=C1 | C23H19F3N4O5S
solvent | methanol | 2.0 mL | CO | CH4O
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 4 N, 60 μL | [OH-].[Na+]
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 2-(2-Hydroxyacetylaminopyridin-4-ylmethylthio)-N-(4-trifluoromethoxyphenyl)pyridine-3-carboxamide | 23 mg | OCC(=O)NC(SC1=NC=CC=C1C(=O)NC1=CC=C(C=C1)OC(F)(F)F)C1=CC=NC=C1 | C21H17F3N4O4S
